US07750003B2
3-Cyclopropyl-1-[4-[4-(cyclopropylsulfonylmethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]urea
[4-(3-Cyclopropylureido)phenyl]boronic acid, pinacol ester (80 mg, 0.26 mmol), sodium carbonate (1.055 mL, 2.11 mmol), dichlorobis(triphenylphosphine)palladium(II) (14.8 mg, 0.02 mmol) and 2-chloro-4-(cyclopropylsulfonylmethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidine (70 mg, 0.21 mmol) were suspended in 18% DMF in DME:Ethanol:Water 7:2:3 mixture (4 mL) and sealed into a microwave tube. The reaction was heated to 100° C. for 10 minutes in the microwave reactor and cooled to RT. The crude product was purified by ion exchange chromatography, using an SCX column. The desired product was eluted from the column using 7M ammonia in methanol. The crude product was further purified by preparative HPLC using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents, to give the desired material as a colourless gum (33.0 mg).

reactant | [4-(3-Cyclopropylureido)phenyl]boronic acid | C1(CC1)NC(NC1=CC=C(C=C1)B(O)O)=O | C10H13BN2O3
reactant | sodium carbonate | 2.11 mmol, 1.055 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-chloro-4-(cyclopropylsulfonylmethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidine | 0.21 mmol, 70 mg | ClC1=NC(=CC(=N1)CS(=O)(=O)C1CC1)N1[C@H](COCC1)C | C13H18ClN3O3S
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DME Ethanol Water | COCCOC.C(C)O.O
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.02 mmol, 14.8 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-Cyclopropyl-1-[4-[4-(cyclopropylsulfonylmethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]urea | 33.0 mg | C1(CC1)NC(NC1=CC=C(C=C1)C1=NC(=CC(=N1)CS(=O)(=O)C1CC1)N1[C@H](COCC1)C)=O | C23H29N5O4S
